US08084477B2
A suitable vessel was charged with 3-(4-(bromomethyl)-3-fluorophenyl)-1,2,4-oxadiazole (492.14 g, 1.10 equiv, 1.914 mol), (R)-2-(4-chlorophenylsulfonamido)-5,5,5-trifluoropentanamide (600 g, 1.00 equiv; 1.74 mol) cesium carbonate (312.22 g, 0.55 equiv; 0.98 mol), tetra-n-butylammonium iodide (64.29 g, 0.10 equiv; 0.17 mmoles), and acetonitrile (9 mL/g; 5.4 L). The jacket was heated to 40° C. (internal 38° C.). The reaction was monitored by HPLC until (R)-2-(4-chlorophenylsulfonamido)-5,5,5-trifluoropentanamide was <5 AP. The vessel was cooled to an internal temperature of 20° C. and water (5.4 L) was added. The phases were separated and the product rich layer was on the top. The bottom layer was discarded. Water (3.7 L) was charged over 18 minutes, and the reaction was held for 20 h at 20° C. and then filtered. Water (6 L) was added to the vessel and agitated to assist in transfer of solid stuck to agitator and vessel walls. The crude cake was washed once with the water used to rinse the reactor. The crude cake was dried in trays under vacuum at 50° C. The dry, crude cake weighed 699 g. The cake was transferred to a 10 L reactor and THF was charged (2.025 L) followed by hydroxylamine solution (50% in water) (42.97 mL, 0.40 equiv, 0.696 mol). The reactor jacket was heated to 40° C. The reaction was monitored by HPLC until (R)-2-(4-chloro-N-(4-cyano-2-fluorobenzyl)phenylsulfonamido)-5,5,5-trifluoropentanamide was <0.4 AP. The reaction was cooled to 20° C., water (2 L) was added and the reaction was stirred at 20° C. for 30 minutes. The phases were separated and the organic phase was treated with heptane (8 L) while stirring and the reaction oiled, then precipitated. The slurry was allowed to stand at 20° C. for 2 h, and the reaction was filtered and the cake was washed with heptane (2 L). The crude cake was tray dried under vacuum at 40-50° C. and weighed 613 g after drying to <1% loss on drying. The crude product was transferred back to the vessel along with MeOH (3.678 L) and MeCN (1.226 L). The jacket was heated to 60° C. (internal 52° C.) to effect complete dissolution, and water (2.023 L) was added at that temperature slowly, maintaining an internal temperature of >50° C. When water addition was complete, the solution was cooled to an internal temperature of 15° C. over 4 hours while crystallization occurred. Additional water was charged to the reactor (400 mL) and the reaction was filtered and the mother liquor was returned to the vessel. The mother liquor was agitated for 2 minutes to free any stuck product in the vessel. The crude cake was washed with mother liquor followed by heptanes (1.500 L). The product was tray dried under vacuum at 40-50° C. until loss on drying was <0.5% to give (2R)-2-[[(4-Chlorophenyl)sulfonyl][[2-fluoro-4-(1,2,4-oxadiazol-3-yl)phenyl]methyl]amino]-5,5,5-trifluoropentanamide as a shiny, off white solid (577.6 g, 63.76% yield.).

reactant | 3-(4-(bromomethyl)-3-fluorophenyl)-1,2,4-oxadiazole | 1.914 mol, 492.14 g, 1.10 equiv | BrCC1=C(C=C(C=C1)C1=NOC=N1)F | C9H6BrFN2O
reactant | (R)-2-(4-chlorophenylsulfonamido)-5,5,5-trifluoropentanamide | 1.74 mol, 600 g, 1.00 equiv | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CCC(F)(F)F | C11H12ClF3N2O3S
reactant | cesium carbonate | 0.98 mol, 312.22 g, 0.55 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydroxylamine | 0.696 mol, 42.97 mL, 0.40 equiv | NO | H3NO
reactant | (R)-2-(4-chloro-N-(4-cyano-2-fluorobenzyl)phenylsulfonamido)-5,5,5-trifluoropentanamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=C(C=C(C=C1)C#N)F)[C@@H](C(=O)N)CCC(F)(F)F | C19H16ClF4N3O3S
catalyst | tetra-n-butylammonium iodide | 0.17 mmoles, 64.29 g, 0.10 equiv | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2 L | O | H2O
solvent | water | 5.4 L | O | H2O
solvent | acetonitrile | 5.4 L | C(C)#N | C2H3N
product | (2R)-2-[[(4-Chlorophenyl)sulfonyl][[2-fluoro-4-(1,2,4-oxadiazol-3-yl)phenyl]methyl]amino]-5,5,5-trifluoropentanamide | 63.76% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)N)CCC(F)(F)F)CC1=C(C=C(C=C1)C1=NOC=N1)F | C20H17ClF4N4O4S
